US05801170
3-(2-Diethylaminoethoxy)-4-methoxyaniline
The title compound was prepared from 2-methoxy-5-nitrophenol and 2-diethylaminoethyl chloride hydrochloride using a similar procedure to Descriptions 1 and 2 (71%).

reactant | 2-methoxy-5-nitrophenol | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
product | 3-(2-Diethylaminoethoxy)-4-methoxyaniline | C(C)N(CCOC=1C=C(N)C=CC1OC)CC | C13H22N2O2
